US05578627
To a solution of 0.30 g of 3-[2-tert-butoxycarbonylamino-3-(3-pyridyloxy)propoxy]-1,2-benzoisoxazole in 5 ml of methanol is added 1 ml of a dioxane solution (3.2N) of hydrogen chloride at room temperature, and they are subjected to reaction at the same temperature for two hours, after which the crystals precipitated are collected by filtration, to obtain 0.24 g of colorless, crystalline 3-[2-amino-3-(3-pyridyloxy)propoxy]-1,2-benzoisoxazole dihydrochloride having a melting point of 216.8°-218.9° C. (decomp.).

reactant | 3-[2-tert-butoxycarbonylamino-3-(3-pyridyloxy)propoxy]-1,2-benzoisoxazole | 0.30 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=CC=C2)COC=2C=NC=CC2 | C20H23N3O5
reactant | dioxane | 3.2N, 1 ml | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-[2-amino-3-(3-pyridyloxy)propoxy]-1,2-benzoisoxazole dihydrochloride | Cl.Cl.NC(COC1=NOC2=C1C=CC=C2)COC=2C=NC=CC2 | InChI=1S/C15H15N3O3.2ClH/c16-11(9-19-12-4-3-7-17-8-12)10-20-15-13-5-1-2-6-14(13)21-18-15;;/h1-8,11H,9-10,16H2;2*1H
